US09290482B2
3-(4-Methoxyfuro[3,2-c]pyridin-2-yl)-6-[(2S)-piperidin-2-ylmethoxy]imidazo-[1,2-b]pyridazine
At 0° C. 86 mg (0.44 mmol) (2S)-piperidin-2-ylmethanol were added to 132 mg (3.3 mmol) sodium hydride (60% in mineral oil) in 4 mL anhydrous THF. After 15 min of stirring on the ice bath, 141 mg (0.33 mmol) of 6-chloro-3-(4-methoxyfuro[3,2-c]-pyridin-2-yl)imidazo[1,2-b]pyridazine were added. The ice bath was removed and the mixture was stirred for 72 h at 40° C.

reactant | (2S)-piperidin-2-ylmethanol | 0.44 mmol, 86 mg | N1[C@@H](CCCC1)CO | C6H13NO
reactant | sodium hydride | 3.3 mmol, 132 mg | [H-].[Na+]
reactant | 6-chloro-3-(4-methoxyfuro[3,2-c]-pyridin-2-yl)imidazo[1,2-b]pyridazine | 0.33 mmol, 141 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C(=NC=CC1O2)OC | C14H9ClN4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(4-Methoxyfuro[3,2-c]pyridin-2-yl)-6-[(2S)-piperidin-2-ylmethoxy]imidazo-[1,2-b]pyridazine | COC1=NC=CC2=C1C=C(O2)C2=CN=C1N2N=C(C=C1)OC[C@H]1NCCCC1 | C20H21N5O3
